* AD810A SPICE Macro-model              12/93, Rev. A
*                                       ARG / PMI
*
* This version of the AD810 model simulates the worst-case 
* parameters of the 'A' grade.  The worst-case parameters
* used correspond to those in the data sheet.  This model 
* was developed using the +-5V specifications.
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
* Node assignments
*              non-inverting input
*              |   inverting input
*              |   |   positive supply
*              |   |   |   negative supply
*              |   |   |   |   output
*              |   |   |   |   |   DISABLE pin
*              |   |   |   |   |   |     
.SUBCKT AD810A 1   2   99  50  41  33
*
* INPUT STAGE
*
R1   99   8    680
R2   10   50   680
V1   99   9    0.5
D1   9    8    DX
V2   11   50   0.5
D2   10   11   DX
F1   99   5    VD2 1
F2   4    50   VD2 1
Q1   50   3    5    QP
Q2   99   3    4    QN
Q3   8    5    2    QN
Q4   10   4    2    QP
R3   99   5    0.4E8
R4   50   4    0.4E8
*
* INPUT ERROR SOURCES
*
GB1  1    99   POLY(1) (1,22) 7.5E-6 0.1E-6
GB2  2    99   POLY(1) (1,22) 5E-6 0.1E-6
EOS  3    1    POLY(1) (17,22) 6E-3 25.119E-3
CS1  99   2    0.75E-12
CS2  99   1    2E-12
*
* TRANSCONDUCTANCE STAGE
*
EREF 98   0    22 0 1
R5   12   98   0.3E6
C3   12   98   4.15E-12
G1   98   12   99 8 1.471E-3
G2   12   98   10 50 1.471E-3
V3   99   13   3
V4   14   50   3
D3   12   13   DX
D4   14   12   DX
*
* COMMON MODE STAGE WITH ZERO AT 2.512MHZ
*
E2   16   98   1 22 1
R12  16   17   10
R13  17   98   1
C6   16   17   12.672E-9
*
* POLE AT 90MHZ
*
R6   21   98   1E6
C4   21   98   1.768E-15
G3   98   21   12 22 1E-6
*
* OUTPUT STAGE
*
FSY  99   50   POLY(1) VD2 2.177E-3 2.707
FSY1 99   0    V7 1
FSY2 0    50   V8 1
R9   22   99   40.625E3
R10  22   50   40.625E3
E1   25   98   21 22 1
H1   26   25   POLY(1) VD3 0.7 10E3
H2   25   27   POLY(1) VD3 0.7 10E3
RH1  40   50   1E10
R7   28   40   10
R8   40   29   10
D7   26   28   DX
D8   29   27   DX
VS   40   41   DC 0
CL   41   50   10E-12
V5   23   40   0.5
V6   40   24   0.5
D5   21   23   DX
D6   24   21   DX
F10  98   70   VS  1
D9   70   71   DX
D10  72   70   DX
V7   71   98   DC 0
V8   98   72   DC 0
*
* DISABLE FUNCTION
*
VD1  99   31   DC 1.8
RD1  31   32   35E3
RD2  33   99   1E12
DD1  32   33   DX
FD   98   34   POLY(1) VD1 0.8E-3 -18.0203
DD3  36   34   DX
DD2  34   35   DX
VD2  37   98   DC 0
VD3  38   98   DC 0
RD3  35   37   1E3
RD4  36   38   1E3
CD1  34   98   10E-12
*
* MODELS USED
*
.MODEL QN NPN(BF=200 IS=1E-15)
.MODEL QP PNP(BF=200 IS=1E-15)
.MODEL DX D(IS=1E-15)
.ENDS AD810A